US04136256
Preparation of p-Hexadecylamino-N-(methylsulfonyl)benzamide
A solution of 19.0 g. of methanesulfonamide in 150 ml. of dry dimethylacetamide is added dropwise over 15 minutes to a stirred and cooled (water bath) suspension of 5.5 g. of sodium hydride in 100 ml. of dry dimethylacetamide. The mixture is then stirred and heated at 60°-80° C. for 2 hours. In the meantime, a mixture of 36.2 g. of p-hexadecylaminobenzoic acid in 1200 ml. of methylene chloride, 300 ml. of dimethoxyethane, and 40 ml. of thionyl chloride is refluxed for 1 hour and 15 minutes. The solution is evaporated to an oil which is co-evaporated twice with added dioxane to remove excess thionyl chloride. To the resulting oily residue of p-hexadecylaminobenzoyl chloride hydrochloride is added, in one portion, the previously prepared mixture of sodium methanesulfonamide in dimethylacetamide. The mixture becomes very hot and is cooled briefly in a water bath and then is stirred at room temperature for 30 minutes. The mixture is filtered through a bed of diatomaceous earth and the filtrate is poured into 2 l. of water. The resulting suspension is coagulated by the addition of 250 ml. of saturated sodium chloride solution and the mixture is filtered. The product is washed with water, partially air dried and then crystallized from 1.5 l. of ethanol. The product is recrystallized twice from p-dioxane and dried in the Abderhalden at 65° C. to give 12.0 g. of the title compound as tan crystals melting point 173°-175° C.

reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | p-hexadecylaminobenzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | p-Hexadecylamino-N-(methylsulfonyl)benzamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C24H42N2O3S
